US05438052
A mixture of 71 mg (0.5 mmol) of methyl 5-amino-4H-s-triazole-3-carboxylate and 188 mg of ethyl 4-acetoxy-3-oxo-butyrate is held at about 160° C. for 40 minutes. After cooling the product is crystallized and recrystallized from methanol. There are obtained 110 mg of methyl 5-(acetoxymethyl)-4,7-dihydro-7-oxo-s-triazolo[1,5-a]pyrimidine-2-carboxylate as beige crystals of melting point 223° C. (dec.).

reactant | methyl 5-amino-4H-s-triazole-3-carboxylate | 0.5 mmol, 71 mg | NC=1NC(=NN1)C(=O)OC | C4H6N4O2
reactant | ethyl 4-acetoxy-3-oxo-butyrate | 188 mg | C(C)(=O)OCC(CC(=O)OCC)=O | C8H12O5
product | methyl 5-(acetoxymethyl)-4,7-dihydro-7-oxo-s-triazolo[1,5-a]pyrimidine-2-carboxylate | 110 mg | C(C)(=O)OCC=1NC=2N(C(C1)=O)N=C(N2)C(=O)OC | C10H10N4O5
